US06825354B2
Ethyl(2-methoxyphenyl){[4-(2-butynyloxy)phenyl]sulfanyl}acetate was prepared according to the general method as outlined in example 1 (step 2), starting from ethyl (2-methoxyphenyl)[(4-hydroxyphenyl)sulfanyl]acetate (3.2 g, 10 mmol) and 1-bromo-2-butyne (1.5 g, 11.2 mmol); 3.2 g clear oil. Yield 87%; MS(EI): 371 (M+H)+

reactant | ethyl (2-methoxyphenyl)[(4-hydroxyphenyl)sulfanyl]acetate | 10 mmol, 3.2 g | COC1=C(C=CC=C1)C(C(=O)OCC)SC1=CC=C(C=C1)O | C17H18O4S
reactant | 1-bromo-2-butyne | 11.2 mmol, 1.5 g | BrCC#CC | C4H5Br
product | Ethyl(2-methoxyphenyl){[4-(2-butynyloxy)phenyl]sulfanyl}acetate | Yield 87% | C(C)OC(C(SC1=CC=C(C=C1)OCC#CC)C1=C(C=CC=C1)OC)=O | C21H22O4S
